US04588719
7-(3-Aminopropoxy)-1-dimethylamino-1,2,3,4-tetrahydronaphthalene
85% hydrazine hydrate solution (3.2 ml) is added to a solution of the phthalimido tetrahydronaphthalene (about 15 g) obtained in the preceding step dissolved in absolute ethanol (160 ml). The stirred reaction mixture is refluxed for 3 hours, after which it is allowed to cool and the resulting precipitate removed by filtration. The clear yellow filtrate is evaporated in vacuo leaving a moist yellow solid, which is triturated in 5% aqueous HCl solution. The resulting thick slurry is filtered and the clear filtrate made strongly alkaline with 50% sodium hydroxide solution, resulting in the formation of an oily precipitate. The precipitate is extracted with diethyl ether and the ether layers washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and the filtrate evaporated in vacuo, yielding 7.8 g of a light amber oil. NMR and IR analysis indicate that this oil is the desired amino product, which is used without further treatment for the next reaction step.

reactant | hydrazine hydrate | 3.2 ml | O.NN
reactant | phthalimido tetrahydronaphthalene | about 15 g | C1(C=2C(C(N1C1CCCC3=CC=CC=C13)=O)=CC=CC2)=O | C18H15NO2
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 7-(3-Aminopropoxy)-1-dimethylamino-1,2,3,4-tetrahydronaphthalene | 7.8 g | NCCCOC1=CC=C2CCCC(C2=C1)N(C)C | C15H24N2O
